US06770667B1
To a suspension of 9H-carbazole-1-carboxylic acid (148 mg) and 1-hydroxybenzothiazole (114 mg) in dichloromethane (3 ml) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (201 mg) and the mixture was stirred for 15 minutes. After adding 3-(1,2,4-triazol-1-yl)aniline (123 mg) and 4-dimethylaminopyridine (128 mg), the mixture was stirred for 24 hours. The mixture was evaporated under reduced pressure and purified by a silica gel column chromatography eluting with 2% methanol in dichloromethane to give N-[3-(1,2,4-triazol-1-yl)-phenyl]-9H-carbazole-1-carboxamide (103 mg, 41.5%).

reactant | 9H-carbazole-1-carboxylic acid | 148 mg | C1(=CC=CC=2C3=CC=CC=C3NC12)C(=O)O | C13H9NO2
reactant | 1-hydroxybenzothiazole | 114 mg | OS1C=NC2=C1C=CC=C2 | C7H7NOS
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 201 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 3-(1,2,4-triazol-1-yl)aniline | 123 mg | N1(N=CN=C1)C=1C=C(N)C=CC1 | C8H8N4
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 128 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[3-(1,2,4-triazol-1-yl)-phenyl]-9H-carbazole-1-carboxamide | 103 mg, 41.5% | N1(N=CN=C1)C=1C=C(C=CC1)NC(=O)C1=CC=CC=2C3=CC=CC=C3NC12 | C21H15N5O
